US09227978B2
tert-Butyl 3-(4-(2-(4-chloro-5-cyclobutyl-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate
A mixture of tert-butyl 3-(4-(2-(4-chloro-5-iodo-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate (697 mg, 1.24 mmol), cyclobutylzinc bromide (4.46 mL, 2.23 mmol, 0.5 M in THF), Pd(OAc)2 (56 mg, 0.248 mmol), and S-Phos (102 mg, 0.248 mmol) in THF (15 mL) was stirred at 65° C. under argon for 16 h. The mixture was allowed to cool to RT, quenched with aqueous NH4Cl solution and then extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (methanol/dichloromethane=1:30) to afford the desired product (596 mg, 98% yield) as a brown oil. ESI-MS m/z: 493.5[M+H]+.

reactant | tert-butyl 3-(4-(2-(4-chloro-5-iodo-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate | 1.24 mmol, 697 mg | ClC1=CC(=C(C=C1I)NCC(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)OC | C21H30ClIN4O4
reactant | cyclobutylzinc bromide | 2.23 mmol, 0.5 M, 4.46 mL | [Br-].C1(CCC1)[Zn+]
reactant | S-Phos | 0.248 mmol, 102 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.248 mmol, 56 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-Butyl 3-(4-(2-(4-chloro-5-cyclobutyl-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate | 596 mg, 98% yield | ClC1=CC(=C(C=C1C1CCC1)NCC(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)OC | C25H37ClN4O4
